US07846960B2
2-(4-Formyl-phenyl)-2-methyl-propionic Acid Methyl Ester
To an ambient temperature solution of 2-(4-Bromomethyl-phenyl)-2-methyl-propionic acid methyl ester (275 mg, 1.01 mmol) in DMSO (8 mL) is added sodium bicarbonate (127 mg, 1.52 mmol). The reaction mixture is heated to 120° C. After 3 h, the reaction is concentrated and the residue is partitioned between EtOAc and NaHCO3. The aqueous layer is extracted with EtOAc and the combined organic layers are washed with brine, dried (MgSO4), filtered, concentrated, and chromatographed (0% to 20% EtOAc/Hex) to yield the title compound (179 mg, 86%). 1H NMR (400 MHz, CDCl3) δ 10.00 (s, 1H), 7.85 (d, 2H, J=8.4 Hz), 7.50 (d, 2H, J=8.4 Hz), 3.67 (s, 3H), 1.61 (s, 6H).

reactant | 2-(4-Bromomethyl-phenyl)-2-methyl-propionic acid methyl ester | 1.01 mmol, 275 mg | COC(C(C)(C)C1=CC=C(C=C1)CBr)=O | C12H15BrO2
reactant | sodium bicarbonate | 1.52 mmol, 127 mg | C([O-])(O)=O.[Na+]
solvent | DMSO | 8 mL | CS(=O)C | C2H6OS
product | 2-(4-Formyl-phenyl)-2-methyl-propionic Acid Methyl Ester | 179 mg, 86% | COC(C(C)(C)C1=CC=C(C=C1)C=O)=O | C12H14O3
